US04918073
(b) 4,5-Bis(4-fluorophenyl)pentyl chloride
165 g (0.53 mol) of 4,5-bis(4-fluorophenyl)-4-hydroxypentyl chloride were hydrogenated in 1,650 ml of glacial acetic acid, with the addition of 16.5 g of palladium-on-charcoal (10%) and 80 ml of concentrated H2SO4, at room temperature for 5 hours. The catalyst was filtered off with suction, the filtrate was concentrated to about one quarter of the volume, methylene chloride and water were added, the pH was brought to 6 with concentrated NaOH and the organic phase was separated off, washed with NaHCO3 solution and water, dried and concentrated.

reactant | 4,5-bis(4-fluorophenyl)-4-hydroxypentyl chloride | 0.53 mol, 165 g | FC1=CC=C(C=C1)C(CCCCl)(CC1=CC=C(C=C1)F)O | C17H17ClF2O
reactant | H2SO4 | 80 ml | OS(=O)(=O)O | H2O4S
solvent | acetic acid | 1,650 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 16.5 g | [Pd] | Pd
product | 4,5-Bis(4-fluorophenyl)pentyl chloride | FC1=CC=C(C=C1)C(CCCCl)CC1=CC=C(C=C1)F | C17H17ClF2
